US06696110B1
A solution of N,N-dicyclohexylcarbodiimide (0.22 g) in dichloromethane (10 cm3) is added to a solution of (E)-hex-2-enoic acid (0.10 g), 1-(4-hydroxyphenyl)-2-(2-cyanothiophen-5-yl)acetylene (0.32 g), 4-(dimethylamino)pyridine (0.04 g) in dichloromethane (20 cm3), cooled in an ice bath (0° C.) under an atmosphere of nitrogen. The reaction mixture is stirred overnight, filtered to remove precipitated material and the filtrate is evaporated down under reduced pressure. The crude product is purified by column chromatography on silica gel using a 9:1 petroleum ether (40-60° C.)/ethyl acetate mixture as eluent, followed by recrystallisation from ethanol to yield 1-(4-[(E)-hex-2-enyloxy]phenyl)-2-(2-cyanothiophen-5-yl)acetylene (0.26 g).

reactant | (E)-hex-2-enoic acid | 0.10 g | C(\C=C\CCC)(=O)O | C6H10O2
reactant | 1-(4-hydroxyphenyl)-2-(2-cyanothiophen-5-yl)acetylene | 0.32 g | OC1=CC=C(C=C1)C#CC1=CC=C(S1)C#N | C13H7NOS
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 0.04 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
product | 1-(4-[(E)-hex-2-enyloxy]phenyl)-2-(2-cyanothiophen-5-yl)acetylene | 0.26 g | C(\C=C\CCC)OC1=CC=C(C=C1)C#CC1=CC=C(S1)C#N | C19H17NOS
